US04371547
(b) 2-Benzylideneglutaraldehyde
A mixture of 100 g. 2,6-dimethoxy-3-(α-methoxybenzyl)tetrahydropyran, 300 g. dioxane, 200 ml. water and 40 g. concentrated hydrochloric acid was stirred for 2 hours at 60°-70° C. The solution, which eventually became homogeneous and brown colored, was cooled, neutralized with sodium bicarbonate and the organic layer was separated. The aqueous layer was extracted twice with ether and the combined organic phase was washed until neutral. The solvent was removed and the residue was distilled in vacuo to give 51 g. of the title compound; b.p. 132° C. (1 mm). Yield: 51 g. (73%) (distillation was accompanied by partial decomposition).

reactant | 2,6-dimethoxy-3-(α-methoxybenzyl)tetrahydropyran | COC1OC(CCC1C(C1=CC=CC=C1)OC)OC | C15H22O4
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 2-Benzylideneglutaraldehyde | C(C1=CC=CC=C1)=C(C=O)CCC=O | C12H12O2
